US07135502B1
Triethylamine (70 μl; 0.5 mmol) and methyl chloroformate (39 μl; 0.5 mmol) were added to a solution of N-acetyl-colchicinol (0.178 g; 0.5 mmol) in THF (3 ml). The mixture was stirred at ambient temperature for 90 minutes. After removal of the insoluble material by filtration the residue was purified by flash chromatography eluting with dichloromethane/ethanol (98/2) to give (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl methyl carbonate.

reactant | Triethylamine | 0.5 mmol, 70 μl | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.5 mmol, 39 μl | ClC(=O)OC | C2H3ClO2
reactant | N-acetyl-colchicinol | 0.5 mmol, 0.178 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl methyl carbonate | Yield: 75% | C(OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1)(OC)=O | C22H25NO7
